US09428452B2
A mixture of 1-chloro-2,4-dimethylbenzene (1687 mg, 12 mmol), isobutylamine (1755 mg, 24.00 mmol), and Caddick catalyst (140 mg, 0.238 mmol) was treated with lithium hexamethyl disilizide in tetrahydrofuran (1 M LHMDS in THF, 15 mL, 15.00 mmol) under nitrogen. The reaction mixture was heated to 70° C. for 45 minutes in a septum-sealed vessel. The cooled mixture was concentrated in vacuo and the residue was partitioned between aqueous citric acid (50 mL) and tert butyl methyl ether (TBME) (2×50 mL). The organic phase was treated with dried MgSO4, the solid removed by filtration and the organic phase was concentrated in vacuo to give (2,4-dimethylphenyl)(2-methylpropyl)amine (2.05 g, 11.56 mmol) as an orange oil. LCMS [LCMS1] Rt 1.03 min, m/z (ES+) 178 (M+H).

reactant | 1-chloro-2,4-dimethylbenzene | 12 mmol, 1687 mg | ClC1=C(C=C(C=C1)C)C | C8H9Cl
reactant | isobutylamine | 24.00 mmol, 1755 mg | C(C(C)C)N | C4H11N
reactant | tetrahydrofuran | 15.00 mmol, 1 M, 15 mL | O1CCCC1 | C4H8O
product | (2,4-dimethylphenyl)(2-methylpropyl)amine | 11.56 mmol, 2.05 g | CC1=C(C=CC(=C1)C)NCC(C)C | C12H19N
